US05739129
N-Isopropyl-2-[5-(4-methoxy-benzyl)-2,4-dioxo-3-(phenyl-hydrazono)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-(4-methoxy-phenyl)-acetamide
To a solution of N-isopropyl-2-[2-(4-methoxybenzylamino)-phenylamino]-N-(4-methoxy phenyl)-acetamide (3.25 g, 7.51 mmol) in THF (50 mL) cooled in an ice bath (<5° C.) was added 2-(phenyl-hydrazono) propandioyl dichloride (1.84 g, 7.51 mmol) in THF (50 mL) dropwise over 20 minutes. After complete addition, the solution was allowed to warm to room temperature and stirred overnight. The solvent was evaporated under reduced pressure and the resultant oil was dissolved in ethyl acetate (300 mL), washed with saturated sodium bicarbonate solution (100 mL) and brine (50 mL), dried over MgSO4, filtered and concentrated under reduced pressure to give the title compound (4.55 g, 7.51 mmol) as a yellow oil: 1H NMR (300 MHz, CDCl3): d 11.46 (s, 0.5H), 10.69 (s, 0.5H), 7.56-6.95 (m, 15H), 6.77-6.66 (m, 2H), 5.34 (m, 1H), 5.05 (m, 1H), 4.79 (m, 1H), 4.34-4.08 (m, 2H), 3.86 (s, 2H), 3.74 (s, 3H), 3.72 (s, 3H), 1.11 (m, 6H); TLC (EtOAc/Hexanes(2:3)): Rf =0.30.

reactant | N-isopropyl-2-[2-(4-methoxybenzylamino)-phenylamino]-N-(4-methoxy phenyl)-acetamide | 7.51 mmol, 3.25 g | C(C)(C)N(C(CNC1=C(C=CC=C1)NCC1=CC=C(C=C1)OC)=O)C1=CC=C(C=C1)OC | C26H31N3O3
reactant | 2-(phenyl-hydrazono) propandioyl dichloride | 7.51 mmol, 1.84 g | C1(=CC=CC=C1)NN=C(C(=O)Cl)C(=O)Cl | C9H6Cl2N2O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-Isopropyl-2-[5-(4-methoxy-benzyl)-2,4-dioxo-3-(phenyl-hydrazono)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-(4-methoxy-phenyl)-acetamide | 7.51 mmol, 4.55 g | C(C)(C)N(C(CN1C2=C(N(C(C(C1=O)=NNC1=CC=CC=C1)=O)CC1=CC=C(C=C1)OC)C=CC=C2)=O)C2=CC=C(C=C2)OC | C35H35N5O5
